US07732438B2
Step A: tert-Butyl {(3R,6S)-6-(2,3-difluorophenyl)-2-[(2-hydroxybutyl)imino]azepan-3-yl}carbamate
Mercury(II) chloride (174 mg, 0.640 mmol) was added to a solution of tert-butyl [(3R,6S)-6-(2,3-difluorophenyl)-2-thioxoazepan-3-yl]carbamate (190 mg, 0.533 mmol) and 1-aminobutan-2-ol (152 μL, 1.60 mmol) in ethanol (5 mL) at 55° C. After 30 min, the reaction was allowed to cool to ambient temperature. The mixture was filtered and concentrated. Saturated aqueous sodium carbonate was added and the mixture was extracted with dichloromethane (3×). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated to give the title compound (238 mg). MS 412.2 (M+1).

reactant | tert-butyl [(3R,6S)-6-(2,3-difluorophenyl)-2-thioxoazepan-3-yl]carbamate | 0.533 mmol, 190 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C(NC1)=S)NC(OC(C)(C)C)=O | C17H22F2N2O2S
reactant | 1-aminobutan-2-ol | 1.60 mmol, 152 μL | NCC(CC)O | C4H11NO
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | Mercury(II) chloride | 0.640 mmol, 174 mg | [Hg](Cl)Cl
product | tert-Butyl {(3R,6S)-6-(2,3-difluorophenyl)-2-[(2-hydroxybutyl)imino]azepan-3-yl}carbamate | 238 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C(NC1)=NCC(CC)O)NC(OC(C)(C)C)=O | C21H31F2N3O3
